US07335658B2
(S)-6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-HYDROXY-2-PHENYLETHYL)AMIDE
Following the procedure of Example 15, making variations only as required to use (S)-6-chloropyridazine-3-carboxylic acid (2-hydroxy-2-phenylethyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (64.5% yield). 1H NMR (500 MHz, CDCl3) δ 8.28, 8.05, 7.76, 7.64, 7.58, 7.44-7.32, 7.29, 7.00, 4.96, 4.08, 3.92-3.68, 3.61, 3.36. MS (ES+) m/z 500 (M+1).

reactant | (S)-6-chloropyridazine-3-carboxylic acid (2-hydroxy-2-phenylethyl)amide | O[C@H](CNC(=O)C=1N=NC(=CC1)Cl)C1=CC=CC=C1 | C13H12ClN3O2
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | (S)-6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-HYDROXY-2-PHENYLETHYL)AMIDE | O[C@H](CNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C25H24F3N5O3
